US08466186B2
(c) N-{4-Chloro-3-[5-chloro-6-(3-cyano-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}2,2-dimethyl-propionamide
The title compound was prepared from N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide (66 mg, 0.2 mmol), 1-(4,5-diamino-2-chloro-phenyl)-pyrrolidine-3-carbonitrile (55 mg, 0.2 mmol) in DMF (2 mL) and DIC (39 μL, 0.2 mmol) in analogy to example 6 step (c).

reactant | N-(4-chloro-3-isothiocyanatobenzyl)-2,2-dimethyl-propionamide | 0.2 mmol, 66 mg | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)N=C=S | C13H15ClN2OS
reactant | 1-(4,5-diamino-2-chloro-phenyl)-pyrrolidine-3-carbonitrile | 0.2 mmol, 55 mg | NC1=CC(=C(C=C1N)N1CC(CC1)C#N)Cl | C11H13ClN4
reactant | DIC | 0.2 mmol, 39 μL | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-3-[5-chloro-6-(3-cyano-pyrrolidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}2,2-dimethyl-propionamide | ClC1=C(C=C(CNC(C(C)(C)C)=O)C=C1)NC1=NC2=C(N1)C=C(C(=C2)Cl)N2CC(CC2)C#N | C24H26Cl2N6O
